US04395521
A thermosetting resin was prepared as in Example 1. Phenyl hydrogen maleate was prepared by reacting excess phenol with maleic anhydride and was added to the above resin.

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | Phenyl hydrogen maleate | C(\C=C/C(=O)O)(=O)OC1=CC=CC=C1 | C10H8O4
